US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with glyoxylic acid as described in Example 11 to give 1-nitro-5,6-dihydropyrazolo[1,5-c]quinazoline-5-carboxylic acid with a yield of 69%. M.p.: 203°-205° C.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
product | 1-nitro-5,6-dihydropyrazolo[1,5-c]quinazoline-5-carboxylic acid | yield of 69% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C(=O)O | C11H8N4O4
